US07820823B2
7-[(3R)-3-{4-[(S)-5-(Acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenylamino}-pyrrolidin-1-yl]-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic Acid
A suspension of 119 mg N-{(5S)-3-[3-fluoro-4-(pyrrolidin-3-ylamino)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (0.35 mmol), 100 mg 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, 148 μl triethylamine (1.05 mmol) and 89 μl trimethylchlorosilane (0.70 mmol) in 2 ml DMSO was stirred in a microwave oven at 150° C. for 10 min. The DMSO was evaporated, the residue digested in water and the solid filtrated. The solid was purified by chromatography using a 95/5 dichloromethane/methanol mixture.

reactant | N-{(5S)-3-[3-fluoro-4-(pyrrolidin-3-ylamino)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 0.35 mmol, 119 mg | FC=1C=C(C=CC1NC1CNCC1)N1C(O[C@H](C1)CNC(C)=O)=O | C16H21FN4O3
reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 100 mg | ClC1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C12H8ClFN2O3
reactant | triethylamine | 1.05 mmol, 148 μl | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | 0.70 mmol, 89 μl | C[Si](Cl)(C)C | C3H9ClSi
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | 7-[(3R)-3-{4-[(S)-5-(Acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenylamino}-pyrrolidin-1-yl]-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic Acid | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N[C@H]1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F)F | C28H28F2N6O6
